US06599917B1
d) 3-Benzyl-5-(2-ethoxycarbonylethyl)-2-hydroxypyridine
A mixture of 240 mg of 3-benzyl-5-(2-ethoxycarbonylethyl)-2-methoxypyridine, 2.5 ml of 1,2-dichloroethane and a solution of 1.0 M boron tribromide in 0.39 ml of dichloromethane was stirred at 50° C. for 8 hours. Water and silica gel were added to the reaction solution, and the solvent was removed. The residue was subjected to silica gel column chromatography using 75% ethyl acetate/hexane, to give 86 mg of the target compound.

reactant | 3-benzyl-5-(2-ethoxycarbonylethyl)-2-methoxypyridine | 240 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)CCC(=O)OCC)OC | C18H21NO3
reactant | 1,2-dichloroethane | 2.5 ml | ClCCCl | C2H4Cl2
reactant | boron tribromide | 1.0 M | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | dichloromethane | 0.39 ml | ClCCl | CH2Cl2
product | 3-Benzyl-5-(2-ethoxycarbonylethyl)-2-hydroxypyridine | 86 mg | C(C1=CC=CC=C1)C=1C(=NC=C(C1)CCC(=O)OCC)O | C17H19NO3
